US07297812B2
115 g of acrylic acid and 7.7 g of triethylamine hydrochloride were initially charged in a round-bottom flask together with 0.7 g of hydroquinone and heated to 85° C. 120 g of glycidol were added dropwise to this reactant mixture and the resulting solution was stirred at 85° C. for 0.5 hour. The reaction mixture was subsequently cooled to 75° C. 85 g of trimethyl orthoacetate were added dropwise to this reaction mixture, which was subsequently stirred at 70° C. for 1 hour. The reaction mixture was then freed of the low boilers present by means of a distillation. Subsequently, a vacuum distillation was carried out at 4 mbar and 95° C. 4-Acryloyloxymethyl-2-methoxy-2-methyl-1,3-dioxolane was obtained in a yield of 85%.

reactant | acrylic acid | 115 g | C(C=C)(=O)O | C3H4O2
reactant | triethylamine hydrochloride | 7.7 g | Cl.C(C)N(CC)CC
reactant | hydroquinone | 0.7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | glycidol | 120 g | C1C(O1)CO | C3H6O2
reactant | trimethyl orthoacetate | 85 g | C(C)(OC)(OC)OC | C5H12O3
product | 4-Acryloyloxymethyl-2-methoxy-2-methyl-1,3-dioxolane | yield of 85% | C(C=C)(=O)OCC1OC(OC1)(C)OC | C9H14O5
